US04783467
Ethyl N-(2-Amino-5-iodobenzyl)glycinate
Iodine monochloride (3.24 g) was added to a stirred solution of ethyl N-(2-aminobenzyl)glycinate (4.16 g) (see U.S. Pat. No. 3,983,120) and sodium acetate (1.804 g) in acetic acid (100 cm3) at room temperature. After 1 hour volatile material was removed in vacuo and the residue was partitioned between chloroform (200 -cm3) and saturated aqueous sodium carbonate solution (50 cm3). The aqueous phase was further extracted with chloroform (2×50 cm3) and the combined organic extracts were washed with 10% aqueous sodium thiosulphate solution (50 cm3). The dried (MgSO4) organic extracts were evaporated in vacuo and the oily residue was chromatographed on silica (Merck "MK 60.9385" [Trade Mark]) eluting witb chloroform. Combination and evaporation of the appropriate fractions gave a solid (4.9 g), a small portion of which was recrystallised from hexane-ethyl acetate to afford the title compound, m.p. 58°-61°.

reactant | Iodine monochloride | 3.24 g | ICl | ClI
reactant | ethyl N-(2-aminobenzyl)glycinate | 4.16 g | NC1=C(CNCC(=O)OCC)C=CC=C1 | C11H16N2O2
reactant | sodium acetate | 1.804 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 100 cm3 | C(C)(=O)O | C2H4O2
product | Ethyl N-(2-Amino-5-iodobenzyl)glycinate | 4.9 g | NC1=C(CNCC(=O)OCC)C=C(C=C1)I | C11H15IN2O2
